US04144248
Water (1.5 ml) and 1.5 ml of conc. hydrochloric acid were added to 432 mg of α-methylthio-α-(m-phenoxyphenyl)propionic acid, and then 300 mg of zinc powder was added. With stirring, the mixture was heated under reflux for 2.5 hours. Water (10 ml) and 30 ml of diethyl ether were added to the reaction mixture. The insoluble matter was separated by filtration. The filtrate was extracted three times with 80 ml of diethyl ether. The organic layer was washed with 10 ml of water, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to afford 364 mg of α-(m-phenoxyphenyl)propionic acid as an oil. The yield was 100%.

reactant | Water | 1.5 ml | O | H2O
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | α-methylthio-α-(m-phenoxyphenyl)propionic acid | 432 mg | CSC(C(=O)O)(C)C1=CC(=CC=C1)OC1=CC=CC=C1 | C16H16O3S
reactant | Water | 10 ml | O | H2O
catalyst | zinc | 300 mg | [Zn] | Zn
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | α-(m-phenoxyphenyl)propionic acid | 364 mg, yield was 100% | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(C(=O)O)C | C15H14O3
